US07414063B2
[2-(2-Bromo-ethoxy)-5-chloro-phenyl]-phenyl-methanone
A mixture of (5-chloro-2-hydroxy-phenyl)-phenyl-methanone (0.93 g, 4.0 mmol), δ 1,2-dibromoethane (3.5 mL, 40 mmol) and potassium carbonate (0.83 g, 6.0 mmol) in acetonitrile (10 mL) is heated at reflux under N2 over weekend (about 60 hours). After cooling to room temperature, solid potassium bromide is filtered off and washed with ca. 70 mL of acetonitrile. The filtrate is evaporated, and the crude mixture purified by column chromatography (SiO2, 5-12% ethyl acetate in hexanes) to afford 1.18 g (87%) of the title compound as colorless product. APCI-MS: m/z 339 [(M+H)+, 35Cl, 79Br], 341 [(M+H)+, 37Cl, 79Br], 343 [(M+H)+, 37Cl, 81Br]. 1H-NMR (300 MHz; CDCl3): δ7.78 (2H d, 8.1 Hz); 7.58 (1H, br t, 7.5 Hz); 7.38-7.50 (4H, m); 6.92 (1H, d, 8.6 Hz); 4.18 (2H, t; 6.5 Hz); 3.26 (2H, t, 6.5 Hz).

reactant | (5-chloro-2-hydroxy-phenyl)-phenyl-methanone | 4.0 mmol, 0.93 g | ClC=1C=CC(=C(C1)C(=O)C1=CC=CC=C1)O | C13H9ClO2
reactant | 1,2-dibromoethane | 40 mmol, 3.5 mL | BrCCBr | C2H4Br2
reactant | potassium carbonate | 6.0 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | [2-(2-Bromo-ethoxy)-5-chloro-phenyl]-phenyl-methanone | 1.18 g, 87% | BrCCOC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C15H12BrClO2
